US07235559B1
Cyclopentanoyl chloride (946 mg, 7.14 mmol) was added dropwise to a stirred suspension of 2-amino-5-nitropyrimidine (1.0 g, 7.14 mmol) in pyridine (10 ml) and the reaction was heated at reflux for 4 hours under an inert atmosphere. The reaction mixture was cooled then stirred in 2N hydrochloric acid (100 ml) and the resulting solid collected by suction filtration. Purification by flash chromatography on silica gel, eluting with 2% methanol in dichloromethane, yielded 2-(N-cyclopentanoyl)amino-5-nitropyrimidine (812 mg, 48% yield) as an beige solid:

reactant | Cyclopentanoyl chloride | 7.14 mmol, 946 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | 2-amino-5-nitropyrimidine | 7.14 mmol, 1.0 g | NC1=NC=C(C=N1)[N+](=O)[O-] | C4H4N4O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 2N, 100 ml | Cl | ClH
product | 2-(N-cyclopentanoyl)amino-5-nitropyrimidine | 812 mg, 48% yield | C1(CCCC1)C(=O)NC1=NC=C(C=N1)[N+](=O)[O-] | C10H12N4O3
